US05321029
1,3-Di-cyclopropylmethyl xanthine was prepared using an analogous procedure to that described in Chem. Berichte 88, 1306-1312, 1955: 20.2 g (0.0855 mol) of 1,3-di-cyclopropylmethyl-6-amino-uracil was dissolved in 100 ml of formamide, then 5.9 g sodium nitrite was added and at 60° C. 13.4 ml formic acid was added slowly with stirring. After the colour had changed from yellow to violet, the mixture was heated up to 100° C. and 3.1 g of sodium dithionite (Na2S2O4) was added in small portions.

reactant | 1,3-di-cyclopropylmethyl-6-amino-uracil | 0.0855 mol, 20.2 g | C1(CC1)CN1C(=O)N(C(=O)C=C1N)CC1CC1 | C12H17N3O2
reactant | sodium nitrite | 5.9 g | N(=O)[O-].[Na+]
reactant | formic acid | 13.4 ml | C(=O)O | CH2O2
reactant | sodium dithionite | 3.1 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | formamide | 100 ml | C(=O)N | CH3NO
product | 1,3-Di-cyclopropylmethyl xanthine | C1(CC1)CN1C(=O)N(C=2N=CNC2C1=O)CC1CC1 | C13H16N4O2
